US07153854B2
To a solution of ethyl 4-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-(hydroxymethyl)pyrrolo[1,2-b]pyridazin-3-yl]butanoate (70.0 mg) in toluene (1 mL) was added tributylphosphine (0.098 mL), 1,3-oxazolidin-2-one (34.1 mg) in that order in an ice bath. After stirring for 5 minutes, to the mixture was added 1,1′-(azodicarbonyl)dipiperidine (98.9 mg). The mixture was stirred for 10 minutes in the bath, and 8 hours at room temperature. Hexane (5 mL) was added, and the mixture was filtered. The filtrate was evaporated. Preparative thin layer chromatography (ethyl acetate-hexane=1-1) afforded ethyl 4-{4-(5-bromo-3-pyridinyl)-7-ethyl-2-[(2-oxo-1,3-oxazolidin-3-yl)methyl]pyrrolo[1,2-b]pyridazin-3-yl}butanoate as an yellow gum (25.0 mg).

reactant | ethyl 4-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-(hydroxymethyl)pyrrolo[1,2-b]pyridazin-3-yl]butanoate | 70.0 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCC(=O)OCC)CO)C(=CC2)CC | C21H24BrN3O3
reactant | tributylphosphine | 0.098 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,3-oxazolidin-2-one | 34.1 mg | O1C(NCC1)=O | C3H5NO2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 98.9 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | 5 mL | CCCCCC | C6H14
product | ethyl 4-{4-(5-bromo-3-pyridinyl)-7-ethyl-2-[(2-oxo-1,3-oxazolidin-3-yl)methyl]pyrrolo[1,2-b]pyridazin-3-yl}butanoate | 25.0 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCC(=O)OCC)CN1C(OCC1)=O)C(=CC2)CC | C24H27BrN4O4
